US08975254B2
N—((R)-2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide
(R)-3-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-1H-pyrazole-5-carboxamide (100 mg, 0.25 mmol) was treated with sodium borohydride using the method of Example 102. Thus, 87 mg (87%) of the title compound was obtained. 1H-NMR (400 MHz; d6-DMSO): δ 1.37 (d, 3H), 1.46 (d, 3H), 3.52-3.72 (m, 2H), 4.63-4.84 (m, 2H), 5.40 (bs, 1H), 6.42 (bs, 1H), 6.95 (d, 1H), 7.87 (d, 1H), 7.99 (s, 2H), 8.09-8.22 (m, 2H), 13.0 (bs, 1H).

reactant | (R)-3-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-1H-pyrazole-5-carboxamide | 0.25 mmol, 100 mg | C(C)(=O)C1=NNC(=C1)C(=O)NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl | C19H17ClN6O2
reactant | sodium borohydride | [BH4-].[Na+]
product | N—((R)-2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide | 87 mg, 87% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)[C@@H](CNC(=O)C1=CC(=NN1)C(C)O)C | C19H19ClN6O2
